US04272437
2-Azido-4-cyanobutanoyl chloride
To a solution of 2-azido-4-cyanobutyric acid (0.76 g, 4.94 mmol) in dry methylene chloride (20 ml) was added oxalyl chloride (0.65 g, 5.1 mmol) and a drop (~15 mg) of DMF. The reaction mixture was stirred at room temperature until the evolution of gas ceased (15 min) and then refluxed for 10 min. Removal of the solvent in vacuo gave 0.84 g (99%) of the title compound as a syrup; ir (neat) νmax : 2250, 2110, 1780 cm-1.

reactant | 2-azido-4-cyanobutyric acid | 4.94 mmol, 0.76 g | N(=[N+]=[N-])C(C(=O)O)CCC#N | C5H6N4O2
reactant | oxalyl chloride | 5.1 mmol, 0.65 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | ~15 mg | CN(C)C=O | C3H7NO
product | 2-Azido-4-cyanobutanoyl chloride | 0.84 g, 99% | N(=[N+]=[N-])C(C(=O)Cl)CCC#N | C5H5ClN4O
